US05599770
Synthesis of 4,6-dimethoxy-2-(phenylmethoxy)pyrimidine (Compound I-372)
Benzyl alcohol (Compound II-64) (0.434 g, 4.0 mmol) and 2-chloro-4,6-dimethoxypyrimidine were dissolved in dimethylformamide (10 ml) and cooled with ice. Sodium hydride (168 mg, 4.0×1.05 mmol) which had been washed with hexane (1 ml×2) was added thereto. After allowed to react for 2 hours, the reaction solution was poured onto ice and extracted with toluene. The organic phase was concentrated and thereafter purified on silica gel column chromatography (Wakogel C300, 100 ml, ethyl acetate/hexane=30 ml/300 ml) to obtain the compound (I-372).

reactant | Benzyl alcohol | 4.0 mmol, 0.434 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-chloro-4,6-dimethoxypyrimidine | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | Sodium hydride | 1.05 mmol, 168 mg | [H-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | hexane | 1 ml | CCCCCC | C6H14
product | 4,6-dimethoxy-2-(phenylmethoxy)pyrimidine | COC1=NC(=NC(=C1)OC)OCC1=CC=CC=C1 | C13H14N2O3
